US07514422B2
N-Allyl,N-trifluoroacetyl-2-iodo-4-chlorophenethylamine
A solution of N-trifluoroacetyl-2-iodo-4-chlorophenethylamine (0.94 g, 2.4 mmol) in toluene (25 mL) was treated with K2CO3 (0.43 g, 3.12 mmol), KOH (0.40 g, 7.2 mmol), n-Bu4NBr (0.077 g, 0.24 mmol) and allyl bromide (0.43 g, 3.6 mmol) sequentially. The mixture was stirred at 80 C for 3.5 hours, cooled to 20 C and acidified with 10% aqueous HCl. The phases were separated, the aqueous phase extracted with ether (100 mL), the combined organic phases were washed with brine (50 mL), dried with Na2SO4 and concentrated to give 0.76 g of a clear oil. MS calculated for C13H12ClF3INO+H: 418, observed: 418.

reactant | N-trifluoroacetyl-2-iodo-4-chlorophenethylamine | 2.4 mmol, 0.94 g | FC(C(=O)NCCC1=C(C=C(C=C1)Cl)I)(F)F | C10H8ClF3INO
reactant | K2CO3 | 3.12 mmol, 0.43 g | C(=O)([O-])[O-].[K+].[K+]
reactant | KOH | 7.2 mmol, 0.40 g | [OH-].[K+]
reactant | allyl bromide | 3.6 mmol, 0.43 g | C(C=C)Br | C3H5Br
reactant | HCl | Cl | ClH
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | n-Bu4NBr | 0.24 mmol, 0.077 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | N-Allyl,N-trifluoroacetyl-2-iodo-4-chlorophenethylamine | 0.76 g | C(C=C)N(C(C(F)(F)F)=O)CCC1=C(C=C(C=C1)Cl)I | C13H12ClF3INO
